US08703953B2
Part A. 8-chloro-5H-chromeno[3,4-c]pyridin-2-amine
N-(8-chloro-5H-chromeno[3,4-c]pyridin-2-yl)acetamide (0.05 g, 0.182 mmol) was taken up in 50% aqueous HCl (3 mL, 99 mmol) and refluxed for 3 h. The reaction mixture was cooled to room temperature and the volatiles were evaporated under reduced pressure. The residue was treated with water (3 mL) and extracted with dichloromethane (2×6 mL). The aqueous layer was collected and concentrated under reduced pressure to afford a 8-chloro-5H-chromeno[3,4-c]pyridin-2-amine, hydrochloride (50 mg, 0.185 mmol, quantitatively) as a yellow oil. LCMS (ESI) m/e 233.3 [(M+H)+, calcd for C12H10ClN2O 233.0]; LC/MS retention time (method G); tR=0.89 min

reactant | N-(8-chloro-5H-chromeno[3,4-c]pyridin-2-yl)acetamide | 0.182 mmol, 0.05 g | ClC=1C=CC2=C(C1)OCC1=CN=C(C=C12)NC(C)=O | C14H11ClN2O2
reactant | HCl | 99 mmol, 3 mL | Cl | ClH
product | 8-chloro-5H-chromeno[3,4-c]pyridin-2-amine | ClC=1C=CC2=C(C1)OCC1=CN=C(C=C12)N | C12H9ClN2O
